US09375009B2
To a solution of acetone oxime (9.3 mg) in N,N-dimethylformamide (0.28 ml) at room temperature was added 3 Å molecular sieve, and the mixture was stirred at this temperature for 2 hours. Thereafter, 2-(3-{2-[1-(chloroacetyl)piperidin-4-yl]-1,3-thiazol-4-yl}-4,5-dihydro-1,2-oxazol-5-yl)phenyl methanesulphonate (50 mg) and caesium carbonate (64 mg) were added thereto, and the mixture was stirred at room temperature for 18 hours. Subsequently, the mixture was filtered and extracted twice with ethyl acetate. The combined organic phases were dried over magnesium sulphate and concentrated. Purification by column chromatography gave 2-{3-[2-(1-{[(propan-2-ylideneamino)oxy]acetyl}piperidin-4-yl)-1,3-thiazol-4-yl]-4,5-dihydro-1,2-oxazol-5-yl}phenyl methanesulphonate (5 mg, 10%).

reactant | acetone oxime | 9.3 mg | CC(C)=NO | C3H7NO
reactant | 2-(3-{2-[1-(chloroacetyl)piperidin-4-yl]-1,3-thiazol-4-yl}-4,5-dihydro-1,2-oxazol-5-yl)phenyl methanesulphonate | 50 mg | CS(=O)(=O)OC1=C(C=CC=C1)C1CC(=NO1)C=1N=C(SC1)C1CCN(CC1)C(CCl)=O | C20H22ClN3O5S2
reactant | caesium carbonate | 64 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 0.28 ml | CN(C=O)C | C3H7NO
product | 2-{3-[2-(1-{[(propan-2-ylideneamino)oxy]acetyl}piperidin-4-yl)-1,3-thiazol-4-yl]-4,5-dihydro-1,2-oxazol-5-yl}phenyl methanesulphonate | 5 mg, 10% | CS(=O)(=O)OC1=C(C=CC=C1)C1CC(=NO1)C=1N=C(SC1)C1CCN(CC1)C(CON=C(C)C)=O | C23H28N4O6S2
